US07323455B2
tert-Butyl-2-cyano-5-(5-methyl-2-oxo-5-phenyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate was prepared from tert-butyl-2-(5-methyl-2-oxo-5-phenyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate and chlorosulfonyl isocyanate according to the cyanation procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.02 (s, 1H), 7.42-7.38 (m, 2H), 7.32-7.10 (m, 7H), 6.49 (d, J=3.80 Hz, 1H), 4.20 (d, J=14.63 Hz, 1H), 3.99, (d, J=14.41 Hz, 1H), 1.87 (s, 3H), 1.39 (s, 9H); MS (ES) n?z 442 ([M−H]−, 100%).

reactant | tert-butyl-2-(5-methyl-2-oxo-5-phenyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=1C=CC2=C(C(OCC(N2)=O)(C2=CC=CC=C2)C)C1 | C25H26N2O4
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
product | tert-Butyl-2-cyano-5-(5-methyl-2-oxo-5-phenyl-1,2,3,5-tetrahydro-4,1-benzoxazepin-7-yl)-1H-pyrrole-1-carboxylate | C(C)(C)(C)OC(=O)N1C(=CC=C1C=1C=CC2=C(C(OCC(N2)=O)(C2=CC=CC=C2)C)C1)C#N | C26H25N3O4
